US04025630
5,5-Dimethyl-10-[4-(piperidino)butyryloxy]-2-(2-propynyl)-8-(1-methyl butylphenyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-d]pyridine hydrochloride
A mixture of 1.45 g. (4.26 mm) of 5,5-dimethyl-10-hydroxy-2-(2-propynyl)-8-(1-methylbutylphenyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, 0.89 g. (4.28 mm.) of Δ-piperidinobutyric acid hydrochloride and 0.93 g. (4.50 mm.) of dicyclohexylcarbodiimide in 200 ml. of methylene chloride are stirred at room temperature for 18 hours. After cooling the reaction mixture for 11/2 hours, the by-product of dicyclohexylurea is removed by suction filtration. A rotary evaporator is used to remove the methylene chloride, and a mixture of 25 ml. of methylene chloride and 50 ml. of cyclohexane is added. After standing at room temperature for 2 hours and a 5° C. for 16 hours, gravity filtration is used to separate the resulting solid. This material is generally a mixture of the starting acid hydrochloride and the hydrochloride salt of the starting benzopyran. The mother liquid is evaporated and the residue crystallized from a mixture of 2 ml. of methylene chloride and 15 ml. of diethyl ether. After filtration and drying, the pure product is obtained.

reactant | 5,5-dimethyl-10-hydroxy-2-(2-propynyl)-8-(1-methylbutylphenyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C2=C(C=CC=C2)C(CCC)C)O)C2=C1CCN(C2)CC#C)C | C28H33NO2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[4-(piperidino)butyryloxy]-2-(2-propynyl)-8-(1-methyl butylphenyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C2=C(C=CC=C2)C(CCC)C)OC(CCCN2CCCCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C37H48N2O3.ClH/c1-6-14-27(3)29-15-9-10-16-30(29)28-24-33(41-35(40)17-13-22-38-20-11-8-12-21-38)36-31-26-39(19-7-2)23-18-32(31)37(4,5)42-34(36)25-28;/h2,9-10,15-16,24-25,27H,6,8,11-14,17-23,26H2,1,3-5H3;1H
